US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-trifluoromethylphenyl)furan-2-carboxamide)
Prepared by a method analogous to that described in Example 1 from (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) and 3-trifluoromethylphenylboronic acid, using tetrakis(triphenylphosphine)palladium(0) and sodium carbonate in a mixture of 1,2-dimethoxyethane and water. The compound was purified by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The product-containing fractions were then evaporated and the residue dissolved in methanol. Excess hydrogen chloride solution (1M in diethyl ether) was added and the solution was evaporated. After drying under vacuum, the hydrochloride salt of the title compound was obtained as a colourless solid; MS (ES+) 365 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromofuran-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)Br | C12H15BrN2O2
reactant | 3-trifluoromethylphenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-trifluoromethylphenyl)furan-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC(=CC=C2)C(F)(F)F | C19H19F3N2O2
